US04824465
A toluene solution of phosgene prepared by adding active carbon and toluene (500 ml) to trichloromethyl chlorocarbonate (82.5 g) was added to 1-(2-chloro-5-nitrophenyl)-2-(2,2-dimethylpropionyl)hydrazine (42.23 g), and the resultant mixture was heated under reflux for 2 hours. Active carbon was further added thereto, and heating under reflux was continued for 15 hours. After removal of active carbon by filtration, the filtrate was concentrated. To the concentrated solution, a solution of triethylamine (23.54 g) in toluene (155 ml) was added, and the resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was combined with water. The toluene layer was separated, washed with water, dried and concentrated under reduced pressure to give 3-(2-chloro-5-nitrophenyl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one (47.51 g). m.p., 130.4° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | trichloromethyl chlorocarbonate | 82.5 g | C(OC(Cl)(Cl)Cl)(=O)Cl | C2Cl4O2
reactant | 1-(2-chloro-5-nitrophenyl)-2-(2,2-dimethylpropionyl)hydrazine | 42.23 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])NNC(C(C)(C)C)=O | C11H14ClN3O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chloro-5-nitrophenyl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one | 47.51 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])N1C(OC(=N1)C(C)(C)C)=O | C12H12ClN3O4
